US09034866B2
A solution of 4-Cyclobutylamino-9-(3-hydroxy-3-methyl-but-1-ynyl)-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester (80 mg, 0.19 mmol), in methanol-ammonia (5 mL) was stirred at room temperature for 0.5 h. Then the mixture was filtered to afford 4 Cyclobutylamino-9-(3-hydroxy-3-methyl-but-1-ynyl)-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid amide (42 mg, 54%) as a white solid.

reactant | 4-Cyclobutylamino-9-(3-hydroxy-3-methyl-but-1-ynyl)-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester | 0.19 mmol, 80 mg | COC(=O)C=1SC=2C(COC3=C(C2N1)C=C(C=C3)C#CC(C)(C)O)NC3CCC3 | C22H24N2O4S
reactant | methanol ammonia | 5 mL | CO.N
product | Cyclobutylamino-9-(3-hydroxy-3-methyl-but-1-ynyl)-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid amide | 42 mg, 54% | C1(CCC1)NC1COC2=C(C=3N=C(SC13)C(=O)N)C=C(C=C2)C#CC(C)(C)O | C21H23N3O3S
